US05281704
The DTPA-B(tBA)EA prepared above was dissolved in 110 mL DI water, adjusted to pH 7 (5N HCl), and cooled in an ice bath. To the cool stirred solution was added concentrated HCl (39 mL) in one portion. The mixture was stirred 10 minutes in the ice bath then for 2 hours at ambient temperature. The solution was then cooled in an ice bath, titrated to pH 7 (50% NaOH), and concentrated by rotary evaporation to a dry solid (50 g). A portion of solid NaCl was removed from this material by suspending the solid in 50 mL DI water and vacuum filtering through a medium fritted glass funnel. The filtrate was adjusted to pH 2.5 (5N HCl), concentrated to a 50 mL suspension, and vacuum filtered through a coarse fritted glass funnel to remove additional solid NaCl. The filtrate was loaded onto a 9.5×2.0" (24.1×5.1 cm) column bed of Bio-Rad AG50-X8 (H+, 200-400 mesh). The column was eluted under nitrogen pressure with 0.75 L DI water followed by 1.25 L of 2N ammonium hydroxide. The product eluted with 2N ammonium hydroxide. The UV active fraction was concentrated by rotary evaporation to an oily residue. The residue was dissolved in 100 mL 1N acetic acid, concentrated by rotary evaporation, reconcentrated repeatedly from water (13×100 mL) to remove ammonium acetate, and lyophilized (10μ, 14 hours) to afford DTPA-B(AE)A.2H2O. 1H NMR (250 MHz, D2O/DCl:pH 2.3): δ 2.95 (t, 4H, J=5.7 Hz), δ 3.09-3.28 (b, 8H), δ 3.35 (t, 4H, J=5.7 Hz), δ 3.51 (s, 4H), δ 3.55 (s, 2H), δ 3.66 (s, 4H).

reactant | Bis(1,1-dimethylethyl)-8,11,14-tris(carboxymethyl)-6,16-dioxo-2,5,8,11,14,17,20-heptaazaheneicosanedioate | CC(C)(C)OC(NCCNC(CN(CCN(CCN(CC(NCCNC(=O)OC(C)(C)C)=O)CC(=O)O)CC(=O)O)CC(=O)O)=O)=O | C28H51N7O12
reactant | HCl | 5N | Cl | ClH
reactant | HCl | 39 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | DI water | 110 mL | O | H2O
product | 14-Amino-3-[2-[(2-aminoethyl)amino]-2-oxoethyl]-6,9-bis(carboxymethyl)-11-oxo-3,6,9,12-tetraazatetradecanoic Acid Dihydrate | O.O.NCCNC(CN(CCN(CCN(CC(=O)O)CC(=O)NCCN)CC(=O)O)CC(=O)O)=O | InChI=1S/C18H35N7O8.2H2O/c19-1-3-21-14(26)9-24(12-17(30)31)7-5-23(11-16(28)29)6-8-25(13-18(32)33)10-15(27)22-4-2-20;;/h1-13,19-20H2,(H,21,26)(H,22,27)(H,28,29)(H,30,31)(H,32,33);2*1H2
